US05834454
A solution of ethyl 3-(3-fluoro-2-methylphenyl)-2-azidopropenoate (10.0 g, 40.1 mmol) in o-xylene (100 ml) was slowly added dropwise in o-xylene (500 ml) at a temperature of 110° C. under stirring. The mixture was stirred at 120°-122° C. for 5 hours and the solvent was distilled off under reduced pressure. The residue obtained was recrystallized from isopropylalcohol (60 ml) to give 3.58 g of ethyl 5-fluoro-4-methyl-1H-indole-2-carboxylate.

reactant | ethyl 3-(3-fluoro-2-methylphenyl)-2-azidopropenoate | 40.1 mmol, 10.0 g | FC=1C(=C(C=CC1)C=C(C(=O)OCC)N=[N+]=[N-])C | C12H12FN3O2
solvent | o-xylene | 100 ml | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 500 ml | CC=1C=CC=CC1C | C8H10
product | ethyl 5-fluoro-4-methyl-1H-indole-2-carboxylate | 3.58 g | FC=1C(=C2C=C(NC2=CC1)C(=O)OCC)C | C12H12FNO2
